US08022223B2
Step C: Preparation of 5-bromo-3-(4-(trifluoromethyl)phenoxy)pyridin-2-amine:
A 250 mL round-bottomed flask was charged with 3-(4-(trifluoromethyl)phenoxy)pyridin-2-amine (1.24 g, 4.88 mmol) and CHCl3 (150 mL), cooled to 0° C. and bromine (0.275 mL, 5.37 mmol) was added dropwise. The reaction was stirred for 60 minutes. The reaction was quenched into a saturated aqueous NaHCO3 solution and extracted with CH2Cl2 (2×150 mL). The combined organics were dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel eluting with 20% EtOAc/hexanes. The combined fractions of product were treated with charcoal, filtered through GFF paper and concentrated to afford the title compound (0.850 g, 52.3% yield) as a tan solid.

reactant | 3-(4-(trifluoromethyl)phenoxy)pyridin-2-amine | 4.88 mmol, 1.24 g | FC(C1=CC=C(OC=2C(=NC=CC2)N)C=C1)(F)F | C12H9F3N2O
reactant | bromine | 5.37 mmol, 0.275 mL | BrBr | Br2
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-3-(4-(trifluoromethyl)phenoxy)pyridin-2-amine | 0.850 g, 52.3% yield | BrC=1C=C(C(=NC1)N)OC1=CC=C(C=C1)C(F)(F)F | C12H8BrF3N2O
